US04237055
11-Benzyloxy-6,10-dimethyl-2-trimethylsiloxy-undec-1,5-diene (15.36 g, 41 mM) in dry tetrahydrofuran (400 ml) is treated with sodium bicarbonate (4.1 g, 49 mM) and N-bromosuccinimide (7.3 g, 41 mM) at -70° C. and allowed to stir for 4 hours. The reaction mixture is allowed to reach room temperature after which saturated sodium bicarbonate, ether and brine are added. The phases are separated, the aqueous phase is extracted with ether and the combined organic extracts are washed with brine and dried (Na2SO4). The solvent is removed in vacuo to give crude 11-benzyloxy-1-bromo-6,10-dimethyl-2-oxo-undec-5-ene (17 g).

reactant | 11-Benzyloxy-6,10-dimethyl-2-trimethylsiloxy-undec-1,5-diene | 41 mM, 15.36 g | C(C1=CC=CC=C1)OCC(CCCC(=CCCC(=C)O[Si](C)(C)C)C)C | C23H38O2Si
reactant | sodium bicarbonate | 49 mM, 4.1 g | C([O-])(O)=O.[Na+]
reactant | N-bromosuccinimide | 41 mM, 7.3 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | ether | CCOCC | C4H10O
solvent | tetrahydrofuran | 400 ml | O1CCCC1 | C4H8O
solvent | brine | [Cl-].[Na+].O
product | 11-benzyloxy-1-bromo-6,10-dimethyl-2-oxo-undec-5-ene | 17 g | C(C1=CC=CC=C1)OCC(CCCC(=CCCC(CBr)=O)C)C | C20H29BrO2
